US07678798B2
5-(Trifluoromethyl)indan-1-one
To a solution of 3-[2-bromo-5-(trifluoromethyl)phenyl]propanoic acid (2.8 g, 9.4 mmol) in THF (100 mL) and hexane (20 mL) at −78° C. was dropwise added a 2.5 M solution of n-butyllithium in hexane (8.3 mL). After the addition had been completed, the reaction was quenched with saturated NH4Cl. The resulting solution was extracted with ethyl acetate twice. The extracts were washed with saturated NaHCO3, brine, dried over MgSO4 and concentrated. The crude material was purified by flash chromatography on silica eluting with 10-20% EtOAc/hexane to afford the desired product as a white solid (0.7 g, 37%). LC/MS calculated for C10H7F3O: (M+H)+ 201; found 201.1.

reactant | 3-[2-bromo-5-(trifluoromethyl)phenyl]propanoic acid | 9.4 mmol, 2.8 g | BrC1=C(C=C(C=C1)C(F)(F)F)CCC(=O)O | C10H8BrF3O2
reactant | n-butyllithium | C(CCC)[Li]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | hexane | 8.3 mL | CCCCCC | C6H14
product | 5-(Trifluoromethyl)indan-1-one | 0.7 g, 37% | FC(C=1C=C2CCC(C2=CC1)=O)(F)F | C10H7F3O
